US08048909B2
Methyl 5-bromo-4-propyl-1H-pyrrole-3-carboxylate
Using methyl 4-propyl-1H-pyrrole-3-carboxylate (2.8 g), N-bromosuccinimide (3.0 g) and pyridine (0.5 mL), a procedure as in Reference Example 40 was performed to give the title compound as colorless crystals (yield 2.96 g, 72%).

reactant | methyl 4-propyl-1H-pyrrole-3-carboxylate | 2.8 g | C(CC)C=1C(=CNC1)C(=O)OC | C9H13NO2
reactant | N-bromosuccinimide | 3.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 5-bromo-4-propyl-1H-pyrrole-3-carboxylate | yield 2.96 g, 72% | BrC1=C(C(=CN1)C(=O)OC)CCC | C9H12BrNO2
